US08217065B2
E. Methyl 3-(4-{6-[N′-(4-methoxybenzoyl)-hydrazinocarbonyl]-1H-indol-2-yl}-3,5-dimethyl-phenyl)-propionate
To a mixture of 2-[4-(2-methoxycarbonylethyl)-2,6-dimethylphenyl]-1H-indole-6-carboxylic acid (200 mg, 570 μmol) and HOBT (85 mg, 630 μmol) in THF (10 mL) was added EDCI (164 mg, 860 μmol) and the solution was stirred at RT for 10 min. Then a solution of 4-methoxybenzoic acid hydrazide (104 mg, 630 μmols) in THF (5 mL) was added and the mixture was stirred at RT for 18 h. The solvent was removed under reduced pressure and the residual material was chromatographed using a 50-90% gradient of heptane/ethyl acetate to give the title compound.

reactant | 2-[4-(2-methoxycarbonylethyl)-2,6-dimethylphenyl]-1H-indole-6-carboxylic acid | 570 μmol, 200 mg | COC(=O)CCC1=CC(=C(C(=C1)C)C=1NC2=CC(=CC=C2C1)C(=O)O)C | C21H21NO4
reactant | HOBT | 630 μmol, 85 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 860 μmol, 164 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-methoxybenzoic acid hydrazide | 630 μmols, 104 mg | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl 3-(4-{6-[N′-(4-methoxybenzoyl)-hydrazinocarbonyl]-1H-indol-2-yl}-3,5-dimethyl-phenyl)-propionate | COC1=CC=C(C(=O)NNC(=O)C2=CC=C3C=C(NC3=C2)C2=C(C=C(C=C2C)CCC(=O)OC)C)C=C1 | C29H29N3O5
